US06699880B1
Preparation of 1-[1-(1-ethoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
Forty-one (41) mg of 1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one.di-trifluoroacetate was dissolved in 5 ml of dichloromethane, and to which 25 mg of diisopropylethylamine and 11 mg of ethyl chloroformate were added, followed by stirring overnight. The reaction mixture was distributed between chloroform and saturated aqueous sodium bicarbonate solution. The organic layer was dried over sodium sulfate, concentrated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1). Thus 22 mg of the title compound was obtained as a colorless, amorphous substance.

reactant | 1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
reactant | diisopropylethylamine | 25 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 11 mg | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-(1-ethoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 22 mg | C(C)OC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C20H28N4O3
